US07642264B2
4-(4-Chloro-phenyl)-2-[4-(3-methanesulfonyl-phenyl)-imidazol-1-yl]-6-methyl-pyrimidine
A stirred mixture of 4-(4-chloro-phenyl)-6-methyl-2-(4-tributylstannanyl-imidazol-1-yl)-pyrimidine (Example G.3) (0.47 g, 0.84 mmol), commercially available 3-bromo-phenylmethyl sulfone (0.22 g, 0.92 mmol), tetrakis(triphenyl-phosphine)palladium (0.058 g, 0.05 mmol) in toluene (8 mL) was heated under reflux conditions for 15 h. Hexane (10 mL) was added at room temperature and the mixture was stirred for 1 h. The precipitate was collected by filtration, washed with heptane and dried to yield the title compound (0.33 g, 92%) as an off-white solid. MS (ISN) 423.3 [(M−H)−]; mp 233° C.

reactant | 4-(4-chloro-phenyl)-6-methyl-2-(4-tributylstannanyl-imidazol-1-yl)-pyrimidine | 0.84 mmol, 0.47 g | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C)N1C=NC(=C1)[Sn](CCCC)(CCCC)CCCC
reactant | 3-bromo-phenylmethyl sulfone | 0.92 mmol, 0.22 g | BrC=1C=C(C=CC1)CS(=O)(=O)CC1=CC(=CC=C1)Br | C14H12Br2O2S
reactant | Hexane | 10 mL | CCCCCC | C6H14
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(4-Chloro-phenyl)-2-[4-(3-methanesulfonyl-phenyl)-imidazol-1-yl]-6-methyl-pyrimidine | 0.33 g, 92% | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C)N1C=NC(=C1)C1=CC(=CC=C1)S(=O)(=O)C | C21H17ClN4O2S
